US05939439
Step 4: Preparation of 4-Hydroxymethyl-2-hydroxybenzonitrile
Methyl 4-cyano-2-hydroxybenzoate (0.50 g, 2.82 mmol) was dissolved in dry THF (30 mL), treated with LiBH4 (2.0M solution in THF) (5.64 mL, 11.28 mmol), and heated at reflux for 18 hr. The reaction mixture was cooled to room temperature, poured into 1N HCl solution and extracted with EtOAc (2×). Organics combined and dried (MgSO4), filtered and concentrated to dryness to give the title compound which was used without further purification.

reactant | Methyl 4-cyano-2-hydroxybenzoate | 2.82 mmol, 0.50 g | C(#N)C1=CC(=C(C(=O)OC)C=C1)O | C9H7NO3
reactant | LiBH4 | 11.28 mmol, 2.0M, 5.64 mL | [Li+].[BH4-]
reactant | HCl | 1N | Cl | ClH
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-Hydroxymethyl-2-hydroxybenzonitrile | OCC1=CC(=C(C#N)C=C1)O | C8H7NO2
